US06239142B1
N-(4-Chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide
Methyl 5-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxythieno[2,3-b]pyridine-2-carboxylate (0.506 g) from Example No. 33 is dissolved in THF (100 mL) with heating and then the reaction is cooled in an ice bath. To this solution is added a 1.0 M solution of LiAlH4 in THF (2.4 mL). The reaction is allowed to warm to room temperature and is stirred for 2.5 h. The reaction is quenched with water (1 mL), 10% NaOH (1 mL), and H2O (1 mL). The aluminum salts are filtered off and the filtrate is concentrated in vacuo. The resulting yellow oil is purified by column chromatography (CH2Cl2/methanol, 98/2; 95/5). Fractions homogeneous by TLC are combined and concentrated in vacuo to yield 0.254 g (54%) of the title compound as a pale yellow solid.

reactant | Methyl 5-{[(4-chlorobenzyl)amino]carbonyl}-4-hydroxythieno[2,3-b]pyridine-2-carboxylate | 0.506 g | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)C(=O)OC)O)C=C1 | C17H13ClN2O4S
reactant | LiAlH4 | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 100 mL | C1CCOC1 | C4H8O
solvent | THF | 2.4 mL | C1CCOC1 | C4H8O
product | N-(4-Chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide | 0.254 g, 54% | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CO)O)C=C1 | C16H13ClN2O3S
